US07259266B2
Step 1. Preparation of 2-hydroxy-3-iodo-4-methoxybenzaldehyde
To a solution of 4.0 g (26.3 mmol) of 2-hydroxyl-4-methoxybenzaldehyde in 30 mL of ethanol was added 1.87 g (7.4 mmol) of iodine, followed by addition of a solution of 6 g (26.3 mmol) of periodic acid in 10 mL of water. The resulting dark yellow solution was heated to 68° C. for two h. After cooling to room temperature, the reaction was added to 300 mL of ethyl acetate. The resulting organic solution was washed with saturated aqueous solution of sodium sulfite, washed with brine and dried over anhydrous magnesium sulfate. After removing the volatiles, the crude products were purified by silica chromatography to afford 1.8 g (49%) of a light yellow solid: 1H NMR(CDCl3/400 MHz,) 12.18(s, 1H), 9.63(s, 1H), 7.53(d, J=8.4 Hz, 1H), 6.56(d, J=8.4 Hz, 1H), 3.99(s, 3H). 13C NMR (CDCl3/400 MHz) 194.2, 165.3, 163.0, 136.3, 116.1, 103.6, 57.2. MS (ESI+) 278.9(M+1, 100).

reactant | 2-hydroxyl-4-methoxybenzaldehyde | 26.3 mmol, 4.0 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | iodine | 7.4 mmol, 1.87 g | II | I2
reactant | periodic acid | 26.3 mmol, 6 g | I(=O)(=O)(=O)O | HIO4
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
product | 2-hydroxy-3-iodo-4-methoxybenzaldehyde | 1.8 g, 49% | OC1=C(C=O)C=CC(=C1I)OC | C8H7IO3
